### PR TITLE
[Merged by Bors] - feat: ample sets in real vector spaces

### PR DESCRIPTION
**Pull request by grunweg**
From the sphere eversion project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/AmpleSet.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+theorem AmpleSet.image {s : Set E} (h : AmpleSet s) (L : E ≃ᵃL[ℝ] F) :
+    AmpleSet (L '' s) := fun x hx ↦ by
+  rw [L.image_eq_preimage] at hx
+  have : L '' connectedComponentIn s (L.symm x) = connectedComponentIn (L '' s) x := by
+    conv_rhs => rw [← L.apply_symm_apply x]
+    exact (L.toHomeomorph).image_connectedComponentIn hx
+  rw [← this]
+  refine (L.toAffineMap.image_convexHull _).symm.trans ?_
+  rw [h (L.symm x) hx, image_univ]
+  exact L.surjective.range_eq
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/AmpleSet.lean:89]:
```suggestion
    AmpleSet (L '' s) := forall_mem_image.mpr fun x hx ↦
  calc (convexHull ℝ) (connectedComponentIn (⇑L '' s) (L x))
    _ = (convexHull ℝ) (L '' (connectedComponentIn s x)) :=
          .symm <| congrArg _ <| L.toHomeomorph.image_connectedComponentIn hx
    _ = L '' (convexHull ℝ (connectedComponentIn s x)) :=
          .symm <| L.toAffineMap.image_convexHull _
    _ = univ := by rw [h x hx, image_univ, L.surjective.range_eq]
```

Looks a bit nicer I think?

File: Mathlib/Analysis/Convex/AmpleSet.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+  -- The connected component of `x ∈ s` in `s ∪ t` contains the connected component of `x` in `s`,
+  -- hence is also full; similarly for `t`.
+  · rw [← Set.univ_subset_iff, ← hs x h]
+    apply convexHull_mono
+    apply connectedComponentIn_mono
+    apply subset_union_left
+  · rw [← Set.univ_subset_iff, ← ht x h]
+    apply convexHull_mono
+    apply connectedComponentIn_mono
+    apply subset_union_right
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/AmpleSet.lean:75]: In case where there is an obvious parallelism going on I like to do them simultaneously. Feel free to ignore if you don't like it.

```suggestion
  rcases hx with (h | h) <;>
  -- The connected component of `x ∈ s` in `s ∪ t` contains the connected component of `x` in `s`,
  -- hence is also full; similarly for `t`.
  [have hx := hs x h; have hx := ht x h] <;>
  rw [← Set.univ_subset_iff, ← hx] <;>
  apply convexHull_mono <;>
  apply connectedComponentIn_mono <;>
  [apply subset_union_left; apply subset_union_right]
```

File: Mathlib/Analysis/Convex/AmpleSet.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+/-- A whole vector space is ample. -/
+@[simp]
+theorem ampleSet_univ {F : Type*} [NormedAddCommGroup F] [NormedSpace ℝ F] :
+    AmpleSet (univ : Set F) := by
+  intro x _
+  rw [connectedComponentIn_univ, PreconnectedSpace.connectedComponent_eq_univ, convexHull_univ]
+
+/-- The empty set in a vector space is ample. -/
+@[simp]
+theorem ampleSet_empty : AmpleSet (∅ : Set F) := fun _ h ↦ False.elim h
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/AmpleSet.lean:60]:
```suggestion
theorem ampleSet_empty : AmpleSet (∅ : Set F) := fun _ ↦ False.elim
```

File: Mathlib/Analysis/Convex/AmpleSet.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/Convex/AmpleSet.lean]: I do (and didn't know that trick; TIL). Thanks for the suggestion.

File: Mathlib/Analysis/Convex/AmpleSet.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Convex/AmpleSet.lean]: Indeed!

**Comment by grunweg** [comment]
I have incorporated your comments.
awaiting-review

**Review by ADedecker — APPROVED** [review]
LGTM, but obviously I don't want to merge this since I'm one of the authors of the original file (although I believe this part is mostly written by Floris).

**Review by fpvandoorn — APPROVED** [review]
LGTM

Maybe you can add `iff` versions of the last two lemmas?

I think three pairs of eyes is sufficient, even if we all contributed to the code in some way

bors d+

**Comment by grunweg** [comment]
Good idea, added. Thanks for the reviews!
(I also added a few lemmas to ContinousAffineEquiv which hold for Equivs and are needed here. If this duplication can/should be reduced is a topic for another discussion, not today.)
bors r+
